US07750156B2
1-(4-hydroxyphenyl)-4-(4-trifluoromethoxyphenoxy)piperidine (2034 g) and 2-chloro-1-[(2R)-2-methyl-2,3-epoxypropyl]-4-nitroimidazole (1388 g) were heated with stirring for 8 hours at about 100° C. and crude 1-{4-[(2R)-3-(2-chloro-4-nitroimidazole-1-yl)-2-hydroxy-2-methylpropoxy]phenyl}-4-(4-trifluoromethoxyphenoxy)piperidine was obtained. At the point where this was cooled to 88° C., dimethylformamide (2.5 L) was added and dissolved therein. After leaving the mixture at room temperature for 13 hours, dimethylformamide (15.8 L) was further added and the mixture was cooled to −9° C. Sodium tert-butoxide (715 g) was gradually added thereto at not more than 0° C. over 3.5 hours. After stirring for further 15 minutes, the reaction mixture was poured into a mixture of water (41.2 L) and ethyl acetate (2.1 L) at room temperature. After stirring for an hour at 30° C., the precipitate was filtrated. Crystals were washed with water (9.2 L) and then with ethyl acetate (8.2 L) under reflux. Upon cooling to 5° C., the precipitate was filtrated. The precipitate washed with ethyl acetate (2.2 L), and dried by air blasting at 60° C. for 18 hours to obtain (2R)-2-methyl-6-nitro-2-{4-[4-(4-trifluoromethoxyphenoxy)piperidine-1-yl]phenoxymethyl}-2,3-dihydroimidazo[2,1-b]oxazole (1548 g; yield 50%).

reactant | 1-(4-hydroxyphenyl)-4-(4-trifluoromethoxyphenoxy)piperidine | 2034 g | OC1=CC=C(C=C1)N1CCC(CC1)OC1=CC=C(C=C1)OC(F)(F)F | C18H18F3NO3
reactant | 2-chloro-1-[(2R)-2-methyl-2,3-epoxypropyl]-4-nitroimidazole | 1388 g | ClC=1N(C=C(N1)[N+](=O)[O-])C[C@@]1(CO1)C | C7H8ClN3O3
product | 1-{4-[(2R)-3-(2-chloro-4-nitroimidazole-1-yl)-2-hydroxy-2-methylpropoxy]phenyl}-4-(4-trifluoromethoxyphenoxy)piperidine | ClC=1N(C=C(N1)[N+](=O)[O-])C[C@@](COC1=CC=C(C=C1)N1CCC(CC1)OC1=CC=C(C=C1)OC(F)(F)F)(C)O | C25H26ClF3N4O6
